US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionic acid methyl ester and 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid were coupled in the same way as described in Example 65 to give 2-[3-(2,4-difluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionic acid methyl ester as a white solid: δH (360 MHz, CDCl3) 1.69 (6H, s), 3.70 (3H, s), 6.91 (1H, d, J 7), 7.20-7.25 (1H, m), 7.43-7.47 (1H, m), 7.50-7.57 (1H, m), 7.84-7.87 (1H, m), 7.89 (1H, s), 8.21 (1H, dd, J 7 and 3), 8.69 (1H, dd, J 5 and 2), 8.78 (1H, d, J 1); m/z (ES+) 409 (M++H).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionic acid methyl ester | COC(C(C)(C)C1=NC=2N(C=C1)C(=CN2)Br)=O | C11H12BrN3O2
reactant | 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
product | 2-[3-(2,4-difluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionic acid methyl ester | COC(C(C)(C)C1=NC=2N(C=C1)C(=CN2)C2=C(C(=C(C=C2)F)C=2C=NC=CC2)F)=O | C22H18F2N4O2
